US06172057B2
4-(4-n-Butoxy-benzenesulfonyl)1-(4-methoxy-benzyl)-piperidine-4-carboxylic acid was prepared starting from 4-(4-Butoxy-benzenesulfonyl)-1-(4-methoxy-benzyl)piperidine-4-carboxylic acid ethyl ester (3.0 g, 6.1 mmol) dissolve in methanol (30 mL), 10 N sodium hydroxide (10 mL), tetrahydrohydrofuran (20 ML). The resulting reaction mixture was worked up as outlined in example 83. Yield 1.5 g (53%). white solid mp 207° C. , MS: 462.5 (M+H)+.

reactant | 4-(4-Butoxy-benzenesulfonyl)-1-(4-methoxy-benzyl)piperidine-4-carboxylic acid ethyl ester | 6.1 mmol, 3.0 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C26H35NO6S
reactant | sodium hydroxide | 10 N, 10 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 4-(4-n-Butoxy-benzenesulfonyl)1-(4-methoxy-benzyl)-piperidine-4-carboxylic acid | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OC)C(=O)O | C24H31NO6S
